US04898949
3,3-Diphenyl-2-(1-methyl-1H-tetrazol-5-yl)propenal
A solution of 2,2-diphenyl-1-(1-methyl-1H-tetrazol-5-yl)ethene (3.75 g; 14.29 mmole) in dry THF (40 mL) was cooled to -78° C. and treated with n-butyllithium (6.3 mL of a 2.5M soln. in hexane; 15.75 mmole) and the resulting mixture stirred at -78° C. for 30 minutes. Ethyl formate (1.5 mL; 18.58 mmole) was added and the mixture stirred at -78° C. for 2 hours. The reaction was quenched with 2N HCl and the solvent removed by evaporation. The residue was extracted with EtOAc (3×30 mL) and the combined organic layers were dried (MgSO4) and evaporated. The residue was purified by chromatography using 25-35% EtOAc-hexane as eluent to afford starting material (1.35 g; 36%) and the desired title compound (1.65 g; 39%); m.p.=185°-186° C. (crystallized EtOAc-hexane). MS (EI): m/e=290 for M+

reactant | 2,2-diphenyl-1-(1-methyl-1H-tetrazol-5-yl)ethene | 14.29 mmole, 3.75 g | C1(=CC=CC=C1)C(=CC1=NN=NN1C)C1=CC=CC=C1 | C16H14N4
reactant | n-butyllithium | C(CCC)[Li]
reactant | Ethyl formate | 18.58 mmole, 1.5 mL | C(=O)OCC | C3H6O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3,3-Diphenyl-2-(1-methyl-1H-tetrazol-5-yl)propenal | 1.65 g, 39% | C1(=CC=CC=C1)C(=C(C=O)C1=NN=NN1C)C1=CC=CC=C1 | C17H14N4O
